US08859541B2
B2a) 5-bromo-6-(2-phenylethynyl)pyridin-2-amine
A mixture of 5,6-dibromopyridin-2-amine (80 g, 318 mmol), ethynylbenzene (78 ml, 698 mmol), copper(I) iodide (1.51 g, 7.94 mmol), Dichlorobis(triphenylphosphine)-palladium(II) (5.79 g, 7.94 mmol) and triethylamine (110 ml, 794 mmol) is stirred under argon atmosphere in ACN (500 ml) with THF (250 ml) for 21 h at 50° C. The mixture is diluted with water and extracted with DCM. The combined organic layers are dried over MgSO4, concentrated in vacuo and the product purified by NP chromatography. Yield: 82 g (94%). HPLC-MS: M+H=273/275; tR=1.34 min (*Method—1).

reactant | 5,6-dibromopyridin-2-amine | 318 mmol, 80 g | BrC=1C=CC(=NC1Br)N | C5H4Br2N2
reactant | ethynylbenzene | 698 mmol, 78 ml | C(#C)C1=CC=CC=C1 | C8H6
reactant | triethylamine | 794 mmol, 110 ml | C(C)N(CC)CC | C6H15N
reactant | THF | 250 ml | C1CCOC1 | C4H8O
solvent | ACN | 500 ml | C(C)#N | C2H3N
solvent | water | O | H2O
catalyst | copper(I) iodide | 7.94 mmol, 1.51 g | [Cu]I
catalyst | Dichlorobis(triphenylphosphine)-palladium(II) | 7.94 mmol, 5.79 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-bromo-6-(2-phenylethynyl)pyridin-2-amine | BrC=1C=CC(=NC1C#CC1=CC=CC=C1)N | C13H9BrN2
